US06620940B1
To a mixture of 3-bromo-4-chloro-1,2,5-thiadiazole (0.2 g, 1 mmol), phenylboronic acid (0.135 g, 1.1 mol) in toluene (5 ml) is added a 1M aqueous solution of KF (3 cc, 3 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.055 g, 0.05 mmol, 5%mol) and the biphasic mixture is refluxed with vigorous stirring for 26 hours. The organic layer is decanted off and the aqueous layer is extracted with toluene (2×10 ml). After drying over magnesium sulfate and concentration under vacuum, the oily material is purified by flash chromatography on silica gel eluting with hexane/ethyl acetate (99/1) to afford 0.18 g (95%) of 3-chloro-4-phenyl-1,2,5-thiadiazole as a colorless oil, which crystallizes on standing (melting point 33° C.).

reactant | 3-bromo-4-chloro-1,2,5-thiadiazole | 1 mmol, 0.2 g | BrC1=NSN=C1Cl | C2BrClN2S
reactant | phenylboronic acid | 1.1 mol, 0.135 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | KF | 3 mmol, 3 cc | [F-].[K+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.055 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-chloro-4-phenyl-1,2,5-thiadiazole | 0.18 g, 95% | ClC1=NSN=C1C1=CC=CC=C1 | C8H5ClN2S
